US04731362
To a mixture of 2-(2-tert-butoxycarbonylaminothiazol-4-yl)-4-methyl-2-pentenoic acid (1.56 g), diphenylmethyl 7β-amino-3-methylcarbamoyloxymethyl-3-cephem-4-carboxylate (2.27 g), and N-methylmorpholine (2.0 ml) in dichloromethane (50 ml) is added diphenylphosphoryl chloride (1.27 g) at -30° C. After 2 hours, the reaction mixture is neutralized with 10% citric acid, washed, dried, and purified by chromatography give diphenylmethyl 7β-[2-(2-tert-butoxycarbonylaminothiazol-4-yl)-4-methyl-2-pentenoylamino]-3-methylcarbamoyloxymethyl-3-cephem-4-carboxylate (2.27 g). Yield: 73%.

reactant | 2-(2-tert-butoxycarbonylaminothiazol-4-yl)-4-methyl-2-pentenoic acid | 1.56 g | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(C(=O)O)=CC(C)C | C14H20N2O4S
reactant | diphenylmethyl 7β-amino-3-methylcarbamoyloxymethyl-3-cephem-4-carboxylate | 2.27 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(NC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C23H23N3O5S
reactant | N-methylmorpholine | 2.0 ml | CN1CCOCC1 | C5H11NO
reactant | diphenylphosphoryl chloride | 1.27 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | diphenylmethyl 7β-[2-(2-tert-butoxycarbonylaminothiazol-4-yl)-4-methyl-2-pentenoylamino]-3-methylcarbamoyloxymethyl-3-cephem-4-carboxylate | 2.27 g, Yield: 73% | C(C)(C)(C)OC(=O)NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(NC)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=CC(C)C | C37H41N5O8S2
